US05407936
6-Amino-5-chloro-1-isopropyl-2-(4-methyl-1-piperazinyl)benzimidazole (2.0 g) was dissolved in ethanol (5 ml) and thereto was added 11% (w/w) hydrochloric acid-ethanol (10 ml). After cooling, the precipitated crystal was separated by filtration and the obtained crystal was recrystallized from a mixed solvent of ethanol-methanol to give 6-amino-5-chloro-1-isopropyl-2-(4-methyl-1-piperazinyl)benzimidazole dihydrochloride (1.7 g) as colorless crystal.

reactant | 6-Amino-5-chloro-1-isopropyl-2-(4-methyl-1-piperazinyl)benzimidazole | 2.0 g | NC=1C(=CC2=C(N(C(=N2)N2CCN(CC2)C)C(C)C)C1)Cl | C15H22ClN5
reactant | hydrochloric acid ethanol | 10 ml | Cl.C(C)O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 6-amino-5-chloro-1-isopropyl-2-(4-methyl-1-piperazinyl)benzimidazole dihydrochloride | 1.7 g | Cl.Cl.NC=1C(=CC2=C(N(C(=N2)N2CCN(CC2)C)C(C)C)C1)Cl | InChI=1S/C15H22ClN5.2ClH/c1-10(2)21-14-9-12(17)11(16)8-13(14)18-15(21)20-6-4-19(3)5-7-20;;/h8-10H,4-7,17H2,1-3H3;2*1H
